US06008008
Synthesis of 6,7-dihydroxy-3-benzyl-4-methyl Coumarin
1,2,4-triacetoxybenzene (6.3 g, 25 mmol) and ethyl 2-benzylacetoacetate (5.5 g, 25 mmol) were heated together as described in Example 1. 75% sulphuric acid (35 ml) was added to the stirred solution and stirring continued for 16 hours. The dark coloured suspension was poured into ice/water (350 ml) with good stirring and the grey suspension filtered and the residue washed with abundant water. The residual solid was air dried and recrystallised from hot ethanol with subsequent addition of a little water to aid crystallisation. The esculetin derivative formed small white needles (5.5 g, 75.3%).

reactant | 1,2,4-triacetoxybenzene | 25 mmol, 6.3 g | C(C)(=O)OC1=C(C=C(C=C1)OC(C)=O)OC(C)=O | C12H12O6
reactant | ethyl 2-benzylacetoacetate | 25 mmol, 5.5 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)C | C13H16O3
reactant | sulphuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
product | 6,7-dihydroxy-3-benzyl-4-methyl Coumarin | OC=1C=C2C(=C(C(OC2=CC1O)=O)CC1=CC=CC=C1)C | C17H14O4
